US07402595B2
6-bromo-2-[4-(2-methoxycarbonylethyl)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 6-bromo-4-phenyl-3-isocoumarincarboxylic acid methyl ester (359 mg) in methanol (20 ml) was added 3-(4-aminomethylphenyl)propionic acid methyl ester (387 mg) and the mixture was stirred at room temperature for 18 hr. The solvent was evaporated under reduced pressure, 1N hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was dissolved in methanol (30 ml) and conc. sulfuric acid (3 ml) was added. The mixture was heated under reflux for 3 hrs. The solvent was evaporated under reduced pressure, water was added under ice-cooling and the mixture was neutralized with potassium carbonate. The solution was extracted with ethyl acetate. The extract was washed with saturated brine and dried by adding sodium sulfate. The obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=19/1→3/1) to give the title compound (425 mg, 80%).

reactant | 6-bromo-4-phenyl-3-isocoumarincarboxylic acid methyl ester | 359 mg | COC(=O)C=1OC(=O)C2=CC=C(C=C2C1C1=CC=CC=C1)Br | C17H11BrO4
reactant | 3-(4-aminomethylphenyl)propionic acid methyl ester | 387 mg | COC(CCC1=CC=C(C=C1)CN)=O | C11H15NO2
solvent | methanol | 20 ml | CO | CH4O
product | 6-bromo-2-[4-(2-methoxycarbonylethyl)benzyl]-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 425 mg, 80% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)CCC(=O)OC | C28H24BrNO5
